US08067448B2
4-((1R,2R)-2-Hydroxy-1-(5-phenyl-1,3,4-oxadiazol-2-yl)propylamino)-1-naphthonitrile
To a solution of N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide (846 mg, 2.18 mmol) in anhydrous THF (90 mL) at room temperature was added 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine on polystyrene (2.2 mmol base/g) (2.97 g, 6.53 mmol) followed by p-TSCl (498 mg, 2.60 mmol) and the mixture was stirred for 75 min. The mixture was filtered under suction and the residue washed with acetone (3×100 mL) followed by MeOH (3×150 mL). The filtrate was concentrated under reduced pressure to provide a off white solid, which was purified by flash chromatography over silica gel (25-40% EtOAc in hexanes) to provided the title compound as a yellow solid (2.1 mg, 0.3%): 1H NMR (400 MHz, CDCl3, δ in ppm) 8.19 (d, J=8.2 Hz, 1H), 7.92 (d, J=8.4 Hz, 1H), 7.84 (d, J=7.0 Hz, 2H), 7.80 (d, J=8.0 Hz, 1H), 7.67 (t, J=7.0 Hz, 1H), 7.63-7.53 (m, 2H), 7.49 (t, J=7.4 Hz, 2H), 6.74 (d, J=8.4 Hz, 1H), 5.41 (d, J=9.4 Hz, 1H), 4.95 (d, J=2.9 Hz, 1H), 4.75-4.64 (m, 1H), 1.50 (d, J=6.4 Hz, 3H).

reactant | N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide | 2.18 mmol, 846 mg | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)NNC(C1=CC=CC=C1)=O)[C@@H](C)O | C22H20N4O3
reactant | 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)NP1(N(CCCN1C)C)N(CC)CC | C13H33N4P
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 4-((1R,2R)-2-Hydroxy-1-(5-phenyl-1,3,4-oxadiazol-2-yl)propylamino)-1-naphthonitrile | 2.1 mg, 0.3% | O[C@@H]([C@H](C=1OC(=NN1)C1=CC=CC=C1)NC1=CC=C(C2=CC=CC=C12)C#N)C | C22H18N4O2
